US08461179B1
A mixture of 1-(4-chloro-5-(1-ethyl-7-((4-methoxybenzyl)(methyl)amino)-2-oxo-1,2-dihydro-1,6-naphthyridin-3-yl)-2-fluorophenyl)-3-(3-((4-methylpiperazin-1-yl)methyl)phenyl)urea (78 mg, 0.112 mmol) and anisole (60 mg, 0.559 mmol) was stirred in TFA (2 mL) at RT for 2 h. The mixture was concentrated to dryness and purified via reverse-phase chromatography (MeCN/H2O with 0.1% TFA). The organics were removed under reduced pressure and the aqueous residue was treated with satd. NaHCO3. The mixture was extracted with EtOAc (2×) and the combined organics were washed with brine, dried over Na2SO4 and concentrated to dryness to afford 1-(4-chloro-5-(1-ethyl-7-(methylamino)-2-oxo-1,2-dihydro-1,6-naphthyridin-3-yl)-2-fluorophenyl)-3-(3-((4-methylpiperazin-1-yl)methyl)phenyl)urea (50 mg, 76% yield). MS (ESI) m/z: 578.2 [M+H]+.

reactant | 1-(4-chloro-5-(1-ethyl-7-((4-methoxybenzyl)(methyl)amino)-2-oxo-1,2-dihydro-1,6-naphthyridin-3-yl)-2-fluorophenyl)-3-(3-((4-methylpiperazin-1-yl)methyl)phenyl)urea | 0.112 mmol, 78 mg | ClC1=CC(=C(C=C1C=1C(N(C2=CC(=NC=C2C1)N(C)CC1=CC=C(C=C1)OC)CC)=O)NC(=O)NC1=CC(=CC=C1)CN1CCN(CC1)C)F | C38H41ClFN7O3
reactant | anisole | 0.559 mmol, 60 mg | C1(=CC=CC=C1)OC | C7H8O
solvent | TFA | 2 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | 1-(4-chloro-5-(1-ethyl-7-(methylamino)-2-oxo-1,2-dihydro-1,6-naphthyridin-3-yl)-2-fluorophenyl)-3-(3-((4-methylpiperazin-1-yl)methyl)phenyl)urea | 50 mg, 76% yield | ClC1=CC(=C(C=C1C=1C(N(C2=CC(=NC=C2C1)NC)CC)=O)NC(=O)NC1=CC(=CC=C1)CN1CCN(CC1)C)F | C30H33ClFN7O2
